US07091215B2
N-[7-(2,4-Dichlorophenyl)-2-ethylpyrazolo[1,5-a]pyridin-3-yl]-N-(3-hexyl)amine
After dissolving [7-(2,4-dichlorophenyl)-2-ethylpyrazolo[1,5-a]pyridin-3-yl]amine (30 mg) in acetic acid (1 mL), 3-hexanone (0.024 mL) and sodium sulfate (139 mg) were added and the mixture was stirred at room temperature for 30 minutes. Sodium triacetoxyborohydride (41.5 mg) was then added, and stirring was continued for 2 hours. Water was added to the reaction mixture, extraction was performed with ethyl acetate and the extract was washed with saturated aqueous sodium hydrogencarbonate and brine. After drying the obtained organic layer over anhydrous magnesium sulfate and filtering it, the solvent was concentrated under reduced pressure, the residue was purified by silica gel column chromatography, and the title compound (21 mg) was obtained from the n-hexane:ethyl acetate (30:1) fraction as a yellow oil.

reactant | [7-(2,4-dichlorophenyl)-2-ethylpyrazolo[1,5-a]pyridin-3-yl]amine | 30 mg | ClC1=C(C=CC(=C1)Cl)C1=CC=CC=2N1N=C(C2N)CC | C15H13Cl2N3
reactant | sodium sulfate | 139 mg | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | Sodium triacetoxyborohydride | 41.5 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Water | O | H2O
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | 3-hexanone | 0.024 mL | CCC(CCC)=O | C6H12O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-[7-(2,4-Dichlorophenyl)-2-ethylpyrazolo[1,5-a]pyridin-3-yl]-N-(3-hexyl)amine | 21 mg | ClC1=C(C=CC(=C1)Cl)C1=CC=CC=2N1N=C(C2NC(CC)CCC)CC | C21H25Cl2N3
